US04889857
By the use of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 2-(formylaminomethyl)morpholine, the reaction is similarly carried out as Example 11 to give 1-cyclopropyl-6,8-difluoro-7-[2-(formylaminomethyl)morpholino]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, melting at 210°-213° C.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 2-(formylaminomethyl)morpholine | C(=O)NCC1CNCCO1 | C6H12N2O2
product | 1-cyclopropyl-6,8-difluoro-7-[2-(formylaminomethyl)morpholino]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(OCC1)CNC=O)F)=O)C(=O)O | C19H19F2N3O5
